US09315521B2
To a solution of sodium borohydride (531 mg, 14.0 mmol) in methanol (30 mL) was added a solution of 2-methylimidazo[1,2-a]pyridine-3-carbaldehyde (1.5 g, 9.4 mmol) in methanol (5 mL) at 0° C. The mixture was stirred for 2 hours at room temperature. The solvent was evaporated, water was added, and the mixture was extracted 3 times with ethyl acetate. The organic phase was washed with brine and dried over sodium sulfate. After evaporation of the solvent, {2-methylimidazo[1,2-a]pyridin-3-yl}methanol was obtained (914 mg, 59% yield) and used in the next step without further purification; 1H NMR (400 MHz, DMSO-d6): δ 2.31 (s, 3H), 4.74 (d, J=5.4 Hz, 2H), 5.06 (t, J=5.4 Hz, 1H), 6.86 (dt, J=6.8 Hz, J=1.3 Hz, 1H), 7.16-7.21 (m, 1H), 7.42 (td, J=9.0 Hz, J=1.2 Hz, 1H), 8.28 (td, J=6.8 Hz, J=1.2 Hz, 1H).

reactant | sodium borohydride | 14.0 mmol, 531 mg | [BH4-].[Na+]
reactant | 2-methylimidazo[1,2-a]pyridine-3-carbaldehyde | 9.4 mmol, 1.5 g | CC=1N=C2N(C=CC=C2)C1C=O | C9H8N2O
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | {2-methylimidazo[1,2-a]pyridin-3-yl}methanol | 59% yield | CC=1N=C2N(C=CC=C2)C1CO | C9H10N2O
